US09212162B1
Synthesis of Imidacloprid
7.8 g (60 mmol) of 2-nitroiminoimidazolidine and 12.1 g (87.5 mmol) of potassium carbonate were dissolved in 60 ml of acetonitrile in a reflux flask. The mixture is heated to a temperature sufficient for achieving reflux operating condition. 8.1 g (50.0 mole) of 2-chloro-5-chloromethyl pyridine is dissolved in 40 ml of acetonitrile, and is dropwisely and continuously added into the flask under the reflux condition for a period of 0.5 hr, i.e. the addition rate is about 1.5 ml/minute (the addition rate at the onset of the reaction corresponds to 0.0278 equivalent of 2-chloro-5-chloromethyl pyridine per equivalent of 2-nitroiminoimidazolidine per minute) After completion of the reaction, the mixture is subjected to filtration. The filtrate is concentrated, and is further purified.

reactant | 2-nitroiminoimidazolidine | 60 mmol, 7.8 g | [N+](=O)([O-])N=C1NCCN1 | C3H6N4O2
reactant | potassium carbonate | 87.5 mmol, 12.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | 2-chloro-5-chloromethyl pyridine | 50.0 mole, 8.1 g | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
reactant | 2-chloro-5-chloromethyl pyridine | 0.0278 equivalent | ClC1=NC=C(C=C1)CCl | C6H5Cl2N
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | Imidacloprid | C1=CC(=NC=C1CN\2CCN/C2=N\[N+](=O)[O-])Cl | C9H10ClN5O2
